US07109229B2
(a) N-(3 hydroxypropyl indole-3-acetamide
To a solution of NaH (3.59 g, 89.6 mmol) in DMF (20 mL) cooled to 0° C. was added a solution of indole-3-acetonitrile (10.0 g, 64.0 mmol) in DMF (80 mL) and the mixture was allowed to come to rt and stir for 30 min, becoming dark brown. It was cooled back to 0° C. and 3-bromopropylacetate (89.6 mmol) was added by syringe, slowly to control foaming. The reaction was stirred vigorously at rt for 4 h and then diluted with EtOAc and quenched with a 0.5 M solution of HCl. The organic layer was washed with a saturated aqueous solution of NaCl, dried (MgSO4) and the solvent removed in vacuo to give a brown oil. This was dissolved in t- butanol (175 mL) and freshly ground KOH (42.2 g, 640 mmol) was added with vigourous stirring. The reaction was heated to reflux for 1.5 h. It was then cooled to 30° C. and poured onto ice (500 mL). 6N HCl was added until the pH of the mixture was 1.0. The reaction was diluted with EtOAc the layers separated. The organic layer was washed with a saturated aqueous solution of NaCl, dried (MgSO4) and the solvent removed in vacuo to give a brown oil which was purified by column chromatography (Start 1:1 hexanes:acetone until product begins eluting, wash off with 95:5 acetone:MeOH) to afford 374076 the title compound (60%) as a creme colored solid.

reactant | NaH | 89.6 mmol, 3.59 g | [H-].[Na+]
reactant | indole-3-acetonitrile | 64.0 mmol, 10.0 g | N1C=C(C2=CC=CC=C12)CC#N | C10H8N2
reactant | 3-bromopropylacetate | 89.6 mmol | BrCCCOC(C)=O | C5H9BrO2
reactant | KOH | 640 mmol, 42.2 g | [OH-].[K+]
reactant | HCl | 6N | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | t- butanol | 175 mL | C(C)(C)(C)O | C4H10O
product | hydroxypropyl indole-3-acetamide | 60% | OCCCC=1NC2=CC=CC=C2C1CC(=O)N | C13H16N2O2
